US08426417B2
A solution of N-[2-trifluoromethoxy-5-(4-methyl-piperazin-1-yl)-phenyl]-acetamide (4.75 g, 15 mmol) in EtOH (100 mL) was treated with HCl 37% (35 mL). After 1 h under reflux the mixture was concentrated and tritured with hexane to give in quantitative yield, 5.74 g of 2-trifluoromethoxy-5-(4-methyl-piperazin-1-yl)-phenylamine trihydrochloride salt.

reactant | N-[2-trifluoromethoxy-5-(4-methyl-piperazin-1-yl)-phenyl]-acetamide | 15 mmol, 4.75 g | FC(OC1=C(C=C(C=C1)N1CCN(CC1)C)NC(C)=O)(F)F | C14H18F3N3O2
reactant | HCl | 35 mL | Cl | ClH
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-trifluoromethoxy-5-(4-methyl-piperazin-1-yl)-phenylamine trihydrochloride salt | 5.74 g, quantitative yield | Cl.Cl.Cl.FC(OC1=C(C=C(C=C1)N1CCN(CC1)C)N)(F)F | InChI=1S/C12H16F3N3O.3ClH/c1-17-4-6-18(7-5-17)9-2-3-11(10(16)8-9)19-12(13,14)15;;;/h2-3,8H,4-7,16H2,1H3;3*1H
